US08975254B2
b) N-(2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-methyl-1H-pyrazole-3-carboxamide
3-Methylpyrazole-5-carboxylic acid (70.0 mg, 0.555 mmol), HOBt (85 mg, 0.629 mmol) and PS-carbodiimide (672 mg) were weighed in a glass vial. DCM (4 ml) and DMF (0.4 ml) were added. The mixture was stirred for 10 minutes. 2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine (97 mg, 0.370 mmol) was added and the mixture was stirred for 24 h. The solids were filtered off. PS-Trisamine (616 mg, 1.849 mmol) was added to the filtrate. The mixture was stirred for 2 h and filtered. The filtrate was concentrated and purified by flash chromatography (gradient of DCM:MeOH) to give 46 mg of the title compound. 1H-NMR (400 MHz; CDCl3): δ 2.35 (s, 3H), 3.92, (m, 2H), 4.05, (s, 3H), 4.40, (t, 2H), 6.57 (s, 1H), 6.61 (d, 1H), 7.31 (s, 1H), 7.40-7.43 (m, 1H), 7.47 (d, 1H), 7.62 (d, 1H), 7.96 (d, 1H), 9.94 (s, 1H).

reactant | 3-Methylpyrazole-5-carboxylic acid | 0.555 mmol, 70.0 mg | CC1=NNC(=C1)C(=O)O | C5H6N2O2
reactant | HOBt | 0.629 mmol, 85 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | carbodiimide | 672 mg | N=C=N | CH2N2
reactant | 2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine | 0.370 mmol, 97 mg | COC=1C=C(C=CC1[N+](=O)[O-])C1=NN(C=C1)CCN | C12H14N4O3
reactant | Trisamine | 1.849 mmol, 616 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-methyl-1H-pyrazole-3-carboxamide | 46 mg | COC=1C=C(C=CC1[N+](=O)[O-])C1=NN(C=C1)CCNC(=O)C1=NNC(=C1)C | C17H18N6O4
